* source FLIP-FLOP
.EXTERNAL OUTPUT Q
.EXTERNAL OUTPUT NQ
X_U1A         N00836 N00674 N00670 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1B         N00670 N00840 N00674 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         NQ N00678 N00844 N00836 $G_DPWR $G_DGND 7410 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2B         N00844 N00686 Q N00840 $G_DPWR $G_DGND 7410 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         N00670 N00738 N00908 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3B         N00738 N00674 N00920 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U4A         $D_HI N00908 NQ Q $G_DPWR $G_DGND 7410 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U4B         Q N00920 N01273 NQ $G_DPWR $G_DGND 7410 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U5A         N00844 N00738 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_J         STIM(1,1)
+ $G_DPWR $G_DGND
+ N00678 
+ IO_STM
+ IO_LEVEL=0
+  0s 1  
+ 0.2us 0  
+ 0.6us 1  
U_K         STIM(1,1)
+ $G_DPWR $G_DGND
+ N00686 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 0.2us 1  
+ 0.4us 0  
+ 0.6us 1 
+ 0.8us 0  
U_CP         STIM(1,1) $G_DPWR $G_DGND N00844 IO_STM IO_LEVEL=0 
+ 0 0
+ +0 1
+REPEAT FOREVER
+ +0.1us 0
+  +0.1us 1
+ ENDREPEAT
U_CLR         STIM(1,1) $G_DPWR $G_DGND N01273 IO_STM IO_LEVEL=0 
+ 0 1
+ +0 0
+REPEAT FOREVER
+ +0.1us 1
+  +0.9us 0
+ ENDREPEAT
